US06458772B1
d) Chloromethyl 4-(N-benzyloxycarbonyl-L-valyloxy)benzoate
4-(N-benzyloxycarbonyl-L-valyloxy)benzoic acid was esterified by the method described in Example A-I-1, step d. The title compound (0.95 g) was obtained after silica gel column chromatography (0, 1% ethanol in dichloromethane). Rf (2%MeOH/CHCl3) 0.80.

reactant | 4-(N-benzyloxycarbonyl-L-valyloxy)benzoic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OC1=CC=C(C(=O)O)C=C1 | C20H21NO6
reactant | ethanol | C(C)O | C2H6O
reactant | dichloromethane | ClCCl | CH2Cl2
product | Chloromethyl 4-(N-benzyloxycarbonyl-L-valyloxy)benzoate | 0.95 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OC1=CC=C(C(=O)OCCl)C=C1 | C21H22ClNO6
